US08975254B2
c) (E)-4-(5-(((3-tert-butyl-1H-pyrazole-5-carbonyl)diazenyl)methyl)furan-2-yl)-2-(trifluoromethyl)benzonitrile
To the solution of 3-tert-butyl-1H-pyrazole-5-carbohydrazide (0.076 g, 0.41 mmol) in 10 ml of ethanol 4-(5-formylfuran-2-yl)-2-(trifluoromethyl)benzonitrile (0.10 g, 0.37 mmol) was added and the mixture was stirred at RT for 36 h. The solvent was evaporated and the residue purified with Combiflash using DCM/-methanol as eluent system affording fractions containing the title compound. After treatment of these fractions with DCM the product precipitated out producing 0.048 g of title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.31 (s, 9H), 6.55 (m, 1H), 7.12 (d, 1H), 7.65 (d, 1H), 8.24 (m, 2H), 8.28 (m, 1H), 8.48 (m, 1H), 11.82 (m, 1H), 13.07 (m, 1H).

reactant | 3-tert-butyl-1H-pyrazole-5-carbohydrazide | 0.41 mmol, 0.076 g | C(C)(C)(C)C1=NNC(=C1)C(=O)NN | C8H14N4O
reactant | ethanol 4-(5-formylfuran-2-yl)-2-(trifluoromethyl)benzonitrile | 0.37 mmol, 10 ml, 0.10 g | C(=O)C1=CC=C(O1)C1=CC(=C(C#N)C=C1)C(F)(F)F.C(C)O
product | (E)-4-(5-(((3-tert-butyl-1H-pyrazole-5-carbonyl)diazenyl)methyl)furan-2-yl)-2-(trifluoromethyl)benzonitrile | C(C)(C)(C)C1=NNC(=C1)C(=O)/N=N/CC1=CC=C(O1)C1=CC(=C(C#N)C=C1)C(F)(F)F | C21H18F3N5O2
